US07569337B2
4-[4-(2-Fluoro-ethyl)piperazin-1 -yl]-2-hydroxy-benzaldehyde
600 mg (2.675 mmol) 3-[4-(2-Fluoro-ethyl)-piperazin-1-yl]-phenol are dissolved in 8 mL DMF and cooled to 0° C. 0.27 mL (1.1 eq) POCl3 is added dropwise within 2 min. and the reaction mixture stirred for an additional 5 min. before being allowed to reach room temperature, and then heated and stirred for 3 h at 90° C. The reaction mixture is evaporated and the residue extracted with water and ethyl acetate. The organic phases are washed with brine, dried over sodium sulphate and evaporated. The residue is column chromatographed (silica gel, ethyl acetate followed by ethyl acetate/MeOH 85:15) to yield the desired product as a yellowish oil.

reactant | 3-[4-(2-Fluoro-ethyl)-piperazin-1-yl]-phenol | 2.675 mmol, 600 mg | FCCN1CCN(CC1)C=1C=C(C=CC1)O | C12H17FN2O
reactant | POCl3 | 0.27 mL, 1.1 eq | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-[4-(2-Fluoro-ethyl)piperazin-1 -yl]-2-hydroxy-benzaldehyde | FCCN1CCN(CC1)C1=CC(=C(C=O)C=C1)O | C13H17FN2O2
